US05106863
5-Chloro-2-octylthio-1H-1,3-benzimidazole
To a solution of 5-chloro-2-mercaptobenzimidazole (1.84 c, 10 mmol) (Varima, R. S., J. Indian Chem. Soc. 62, 73 (1985)) in methanol (10 mL) and 2N sodium hydroxide (13 mmol) was added octyl bromide (2.17 g, 10 mmol). The solution was stirred at ambient temperature for 72 hours, evaporated, dissolved in CH2Cl2, washed with brine and dried over Na2SO4. Evaporation of the solvent and flash chromatography (Merck Kieselgel, 5% Et2O/CH2Cl2) gave a residue which solidified on standing. A pentane wash gave the title compound as a beige solid (2.23 g), m.p. 66°-67° C. NMR (CDCl3)δ7.3(m, 3H), 5.33(t, J=6 Hz, 2H), 1.20(br, 15H).

reactant | 5-chloro-2-mercaptobenzimidazole | 10 mmol | ClC1=CC2=C(N=C(N2)S)C=C1 | C7H5ClN2S
reactant | sodium hydroxide | 13 mmol, 2N | [OH-].[Na+]
reactant | octyl bromide | 10 mmol, 2.17 g | C(CCCCCCC)Br | C8H17Br
solvent | methanol | 10 mL | CO | CH4O
product | 5-Chloro-2-octylthio-1H-1,3-benzimidazole | 2.23 g | ClC1=CC2=C(NC(=N2)SCCCCCCCC)C=C1 | C15H21ClN2S
